US06281227B1
B. 3-(3-Acetylamino-4-methyl-phenyl)-acryloyl azide
To a slurry of 3-(3-acetamido-4-methylphenyl)propenoic acid (20.11 g, 91.7 mmol) in acetone (450 mL) at 0° C. is added triethylamine (12.8 mL, 91.8 mmol) followed by dropwise addition of ethyl chloroformate (11.8 mL, 123 mmol) over a 10 minutes period. The resulting yellow slurry is stirred using a mechanical stirrer for 1.5 hours, then a solution of sodium azide (8.94 g, 138 mmol) in water (25 mL) is added slowly so as to maintain the temperature below 5° C. The thick mixture is stirred at 0° C. for 1 hours, then the ice bath is removed and the reaction mixture allowed to warm to room temperature. The suspension is poured over water (800 mL) then filtered. The remaining solid is washed generously with water and dried under vacuum over P2O5 overnight to give the product as a pale yellow solid (21.40 g, 87.6 mmol).

reactant | 3-(3-acetamido-4-methylphenyl)propenoic acid | 91.7 mmol, 20.11 g | C(C)(=O)NC=1C=C(C=CC1C)C=CC(=O)O | C12H13NO3
reactant | triethylamine | 91.8 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 123 mmol, 11.8 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 138 mmol, 8.94 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 450 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | 3-(3-Acetylamino-4-methyl-phenyl)-acryloyl azide | 87.6 mmol, 21.40 g | C(C)(=O)NC=1C=C(C=CC1C)C=CC(=O)N=[N+]=[N-] | C12H12N4O2
